US09126970B2
Step b): Synthesis of 12,12-dimethyl-7-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene
50 ml of pivalic acid are added to 20 g of biphenyl-4-yl-(9,9-dimethyl-9H-fluoren-2-yl)amine (55.3 mmol), 1.2 g of palladium(II)acetate (5.5 mmol) and 0.8 g of potassium carbonate (5.5 mmol), and the mixture is stirred at 120° C. for 9 h. After this time, 1.2 g of palladium(II)acetate (5.5 mmol) are added, and the mixture is stirred at 120° C. for a further 9 h. 300 ml of dichloromethane and 0.1 M Na2CO3 solution are then added. The mixture is partitioned between water and dichloromethane, the aqueous phase is extracted three times with dichloromethane, and the combined organic phases are dried over Na2SO4 and evaporated in a rotary evaporator. The residue is recrystallised from toluene/heptane. The yield is 10 g (27.7 mmol, 50%).

reactant | pivalic acid | 50 ml | C(C(C)(C)C)(=O)O | C5H10O2
reactant | biphenyl-4-yl-(9,9-dimethyl-9H-fluoren-2-yl)amine | 55.3 mmol, 20 g | C1(=CC=C(C=C1)NC1=CC=2C(C3=CC=CC=C3C2C=C1)(C)C)C1=CC=CC=C1 | C27H23N
reactant | potassium carbonate | 5.5 mmol, 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | Na2CO3 | 0.1 M | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | palladium(II)acetate | 5.5 mmol, 1.2 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II)acetate | 5.5 mmol, 1.2 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 12,12-dimethyl-7-phenyl-10,12-dihydro-10-azaindeno[2,1-b]fluorene | CC1(C2=CC=CC=C2C=2C1=CC=1NC3=CC=C(C=C3C1C2)C2=CC=CC=C2)C | C27H21N
